* File: myXOR.pex.netlist
* Created: Tue Nov 26 22:10:14 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* 
.include "myXOR.pex.netlist.pex"
.subckt myXOR  B GND! VDD! A Z
* 
* Z	Z
* A	A
* VDD!	VDD!
* GND!	GND!
* B	B
mXI0/MM0 N_BBAR_XI0/MM0_d N_B_XI0/MM0_g N_GND!_XI0/MM0_s N_GND!_XI0/MM0_b
+ NMOS_VTL L=5e-08 W=9e-08 AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
MM0 N_Z_MM0_d N_A_MM0_g N_BBAR_MM0_s N_BBAR_MM0_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
MM1 N_A_MM1_d N_BBAR_MM1_g N_Z_MM1_s N_Z_MM1_b NMOS_VTL L=5e-08 W=9e-08
+ AD=1.08e-14 AS=1.08e-14 PD=4.2e-07 PS=4.2e-07
mXI0/MM1 N_BBAR_XI0/MM1_d N_B_XI0/MM1_g N_VDD!_XI0/MM1_s N_VDD!_XI0/MM1_b
+ PMOS_VTL L=5e-08 W=1.8e-07 AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
MM2 N_Z_MM2_d N_A_MM2_g N_B_MM2_s N_B_MM2_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
MM3 N_A_MM3_d N_B_MM3_g N_Z_MM3_s N_Z_MM3_b PMOS_VTL L=5e-08 W=1.8e-07
+ AD=2.16e-14 AS=2.16e-14 PD=6e-07 PS=6e-07
*
.include "myXOR.pex.netlist.MYXOR.pxi"
*
.ends
*
*
