* File: myXOR.pex.netlist.pex
* Created: Tue Nov 26 22:10:14 2024
* Program "Calibre xRC"
* Version "v2016.4_38.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_MYXOR%B 3 8 11 13 14 15 17 18 21 24 27 40 45
c43 46 GND 0.00238329f
c44 45 GND 0.0338215f
c45 41 GND 0.00486989f
c46 40 GND 0.0512126f
c47 32 GND 0.00320023f
c48 27 GND 0.00488189f
c49 24 GND 0.00927321f
c50 18 GND 0.00925555f
c51 17 GND 0.0101688f
c52 15 GND 0.00271854f
c53 14 GND 0.00386362f
c54 13 GND 0.00984064f
c55 11 GND 0.0248536f
c56 8 GND 0.0284617f
c57 3 GND 0.0235742f
r58 44 45 77.0449
r59 40 41 77.0449
r60 38 46 0.160909
r61 38 40 4.72557
r62 34 46 0.0418175
r63 33 44 0.106158
r64 32 46 0.160909
r65 32 33 0.542857
r66 27 44 0.106158
r67 24 25 77.0449
r68 21 24 0.925571
r69 18 27 1.20786
r70 17 34 1.20786
r71 15 45 56.8843
r72 13 25 3.85667
r73 13 14 0.422157
r74 9 41 4.5483
r75 9 11 27.69
r76 6 15 4.51741
r77 6 8 27.69
r78 5 14 5.21812
r79 5 8 33.93
r80 1 14 5.21812
r81 1 3 29.25
.ends

.subckt PM_MYXOR%GND! 1 3 11 13 20
c14 20 GND 0.0155598f
c15 11 GND 0.00775007f
c16 10 GND 0.00365664f
c17 3 GND 0.00951579f
c18 1 GND 0.00672904f
r19 14 20 0.0418175
r20 11 13 0.366429
r21 10 20 0.160909
r22 10 13 0.176429
r23 5 11 0.212317
r24 3 5 0.800714
r25 1 14 0.800714
.ends

.subckt PM_MYXOR%VDD! 2 3 11 13 20
c15 20 GND 0.0127392f
c16 11 GND 0.00778115f
c17 10 GND 0.00365664f
c18 3 GND 0.0123594f
c19 2 GND 0.00871634f
r20 14 20 0.0418175
r21 11 13 0.393571
r22 10 20 0.160909
r23 10 13 0.149286
r24 5 11 0.212317
r25 3 5 1.20786
r26 2 14 1.20786
.ends

.subckt PM_MYXOR%A 3 7 10 11 12 13 15 18 26
c38 26 GND 0.0541677f
c39 18 GND 0.0084848f
c40 12 GND 0.0241866f
c41 11 GND 0.00148581f
c42 10 GND 0.0100356f
c43 7 GND 0.0284502f
c44 3 GND 0.0235742f
r45 25 26 77.0449
r46 18 19 77.0449
r47 15 18 0.966286
r48 13 25 1.22143
r49 12 25 1.22143
r50 10 19 3.85667
r51 10 11 1.11957
r52 9 26 98.1129
r53 9 11 1.11957
r54 5 11 2.93485
r55 5 7 33.93
r56 1 11 2.93485
r57 1 3 29.25
.ends

.subckt PM_MYXOR%BBAR 3 5 6 7 9 11 15 18 20 27
c38 35 GND 0.00235221f
c39 28 GND 0.00486989f
c40 27 GND 0.0505156f
c41 20 GND 0.00593001f
c42 19 GND 0.00365664f
c43 18 GND 0.00639856f
c44 15 GND 0.0171488f
c45 11 GND 0.00260315f
c46 7 GND 0.0207603f
c47 6 GND 0.007326f
c48 3 GND 0.0190942f
r49 27 28 77.0449
r50 25 35 0.160909
r51 25 27 4.72557
r52 21 35 0.0418175
r53 19 35 0.160909
r54 19 20 0.542857
r55 17 20 0.212317
r56 17 18 0.556429
r57 15 16 2.13385
r58 9 18 0.104123
r59 9 15 0.108573
r60 7 11 2.33429
r61 6 21 0.800714
r62 5 11 0.103474
r63 5 16 0.109222
r64 1 28 4.5483
r65 1 3 23.01
.ends

.subckt PM_MYXOR%Z 1 3 4 6 7 8 19 22 33 43 44 45
c26 45 GND 1.18485e-19
c27 43 GND 1.30478e-19
c28 19 GND 0.00366616f
c29 8 GND 0.00754784f
c30 7 GND 0.00759009f
c31 6 GND 0.00664892f
c32 4 GND 0.00906738f
c33 3 GND 0.00663081f
c34 1 GND 0.00920964f
r35 39 45 0.151219
r36 35 45 0.151219
r37 34 44 0.204615
r38 33 45 0.0501704
r39 33 34 0.584615
r40 28 44 0.176429
r41 23 44 0.176429
r42 20 43 0.0501704
r43 20 22 1.38846
r44 19 44 0.204615
r45 19 22 0.745385
r46 15 43 0.151219
r47 11 43 0.151219
r48 8 28 0.977143
r49 7 23 1.11286
r50 6 39 0.977143
r51 4 15 0.977143
r52 3 35 1.11286
r53 1 11 1.11286
.ends

